US08008298B2
1-{2-[3-(3,3-Dimethyl-piperazin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one was prepared starting from 1-[2-(3-iodo-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one and 2,2-Dimethyl-piperazine-1-carboxylic acid tert-butyl ester following general procedures as described in these Examples. M+H=392.

reactant | 1-[2-(3-iodo-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | IC=1C=C(C=CC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C23H30IN3O2Si
reactant | 2,2-Dimethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CNCC1)(C)C | C11H22N2O2
product | 1-{2-[3-(3,3-Dimethyl-piperazin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | CC1(CN(CCN1)C=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O)C | C23H29N5O
